* C:\Git\Redako-LLN\Hardware\Simulations\Gate Driver.asc
XU1 N010 0 0 N011 N013 UCC27517_TRANS
V1 N009 0 PULSE(0 3.3 0 1n 1n 1u 2u)
R1 N010 N009 30
V2 N013 0 5
R2 N012 N011 1m
D1 N007 N008 D
D2 N006 N007 D
D3 N005 N006 D
D4 N004 N005 D
D5 N003 N004 D
D6 N002 N003 D
R3 N001 N002 7
V3 N001 0 24
XU2 N008 N012 0 AO3400
.model D D
.lib C:\Users\Red\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 200u
.lib C:\Git\Redako-LLN\Hardware\Simulations\AO3400.mod
.lib C:\Git\Redako-LLN\Hardware\Simulations\UCC27517_TRANS.LIB
.backanno
.end
